US06174974B1
(1,3-Bis(trimethylsilyl)-2-methylindene, compound 54)
500 ml of hexane and 70 ml of butyllithium (as a 2.5 molar solution in hexane) were introduced into a 1000 ml flask. 0.175 mol of 2-methylindene was added dropwise to this at ambient temperature; the mixture was stirred for a further 10 hours. 0.18 mol of trimethylsilyl chloride was then added dropwise at room temperature; the mixture was stirred for a further 10 hours. LiCl was filtered off and 70 ml of butyllithium (as a 2.5 molar solution in hexane) were added to the clear filtrate. After further stirring for 10 hours, 0.18 mol of trimethylsilyl chloride was again added and the mixture was stirred for a further 10 hours. LiCl was filtered off and the solvent was removed in vacuo. Compound 54 remained as a colorless oil. Yield: 85% of the theoretical yield.

reactant | butyllithium | 70 ml | C(CCC)[Li]
reactant | 2-methylindene | 0.175 mol | CC=1CC2=CC=CC=C2C1 | C10H10
reactant | trimethylsilyl chloride | 0.18 mol | C[Si](C)(C)Cl | C3H9ClSi
reactant | trimethylsilyl chloride | 0.18 mol | C[Si](C)(C)Cl | C3H9ClSi
solvent | hexane | CCCCCC | C6H14
solvent | hexane | 500 ml | CCCCCC | C6H14
product | 1,3-Bis(trimethylsilyl)-2-methylindene | Yield: 85% | C[Si](C1C(=C(C2=CC=CC=C12)[Si](C)(C)C)C)(C)C | C16H26Si2
